US05371101
In the same manner as in Reference Example 5, starting from 536 mg of (1S)-1-[(2R)-2-(2,4-difluorophenyl)-2-oxiranyl]ethanol and 305 mg of 4-(4-pyrimidinyl)-3(2H,4H)-1,2,4-triazolone, 2-[(1R,2S)-2-(2,4-difluorophenyl)-2,3-epoxy-1methylpropyl]-4-(4-pyrimidinyl)-3(2H,4H)-1,2,4-triazolone (199 mg) was obtained as a colorless oil.

reactant | (1S)-1-[(2R)-2-(2,4-difluorophenyl)-2-oxiranyl]ethanol | 536 mg | FC1=C(C=CC(=C1)F)[C@]1(OC1)[C@H](C)O | C10H10F2O2
reactant | 4-(4-pyrimidinyl)-3(2H,4H)-1,2,4-triazolone | 305 mg | N1=CN=C(C=C1)N1C(NN=C1)=O | C6H5N5O
product | 2-[(1R,2S)-2-(2,4-difluorophenyl)-2,3-epoxy-1methylpropyl]-4-(4-pyrimidinyl)-3(2H,4H)-1,2,4-triazolone | 199 mg | FC1=C(C=CC(=C1)F)[C@]1([C@@H](C)N2N=CN(C2=O)C2=NC=NC=C2)CO1 | C16H13F2N5O2
